US04316022
Preparation of 5-propionyl-4,5-dihydro-s-triazolo[3,4-c]benzo-as-triazine
5.0 g (0.017 mole) of 4,5-dipropionyl-4,5-dihydro-s-triazolo[3,4-c]benzo-as-triazine are treated with 50 ml of a 5% sodium hydroxide solution. The solution which forms within a short time is decolourized, filtered, the filtrate is acidified with acetic acid, and the separated colourless precipitate is filtered off. 2.5 g (63%) of the title compound are obtained; m.p.: 244° C.

reactant | 4,5-dipropionyl-4,5-dihydro-s-triazolo[3,4-c]benzo-as-triazine | 0.017 mole, 5.0 g | C(CC)(=O)N1N(C2=C(N3C1=NN=C3)C=CC=C2)C(CC)=O | C14H15N5O2
reactant | sodium hydroxide | [OH-].[Na+]
product | 5-propionyl-4,5-dihydro-s-triazolo[3,4-c]benzo-as-triazine | 2.5 g, 63% | C(CC)(=O)N1NC=2N(C3=C1C=CC=C3)C=NN2 | C11H11N5O
